US06503949B1
4-Formylbenzoic acid (15 g, 100 mmol) was dissolved in DMF (250 mL) and 1-hydroxybenzotriazole (14.9 g, 110 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (21.1 g, 110 mmol) were added and the resulting mixture was stirred at room temperature for 30 minutes. Triethylamine (34.8 mL, 250 mmol) and β-alanine methyl ester hydrochloride (15.4 g, 110 mmol) were added and the resulting mixture was stirred at room temperature for 1 hour. More triethylamine (17.4 mL) and β-alanine methyl ester hydrochloride (7.7 g) were added and the mixture was stirred at room temperature for 16 hours. The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The organic phase was dried (MgSO4) and concentrated to afford 16.2 g (70%) of 3-(4-formylbenzoylamino)propionic acid methyl ester as an oil.

reactant | 4-Formylbenzoic acid | 100 mmol, 15 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | 1-hydroxybenzotriazole | 110 mmol, 14.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 110 mmol, 21.1 g | Cl.CN(CCCN=C=NCC)C
reactant | β-alanine methyl ester hydrochloride | 110 mmol, 15.4 g | Cl.COC(CCN)=O
reactant | β-alanine methyl ester hydrochloride | 7.7 g | Cl.COC(CCN)=O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 17.4 mL | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 250 mmol, 34.8 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-formylbenzoylamino)propionic acid methyl ester | 16.2 g, 70% | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
